US07109219B2
N1-(1-Ethylpropyl)-5-(2-amino-4-pyridyl)oxy-1H-1-indolecarboxamide
4-(1H-5-Indolyloxy)-2-pyridinamine (1.85 g, 8.2 mmol, CAS No. 417722-11-3) which was described in WO 02/32872 was dissolved in N,N-dimethylformamide (20 ml); and sodium hydride (394 mg, 9.84 mmol) was added thereto while stirring at room temperature. The reaction mixture was cooled with ice bath after 30 minutes; phenyl N-(1-ethylpropyl)carbamate (1.87 g, 9.03 mmol); and the reaction mixture was stirred at room temperature for 3 hours. The reaction mixture was partitioned between ethyl acetate and water; the organic layer was washed with water and brine, dried over anhydrous sodium sulfate, concentrated; and the residue was purified by silica gel column chromatography (Fuji Silysia NH, hexane:ethyl acetate=3:1) to yield the title compound as crystals (1.95 g, 5.8 mmol, 71%).

reactant | 4-(1H-5-Indolyloxy)-2-pyridinamine | 8.2 mmol, 1.85 g | N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)N | C13H11N3O
reactant | sodium hydride | 9.84 mmol, 394 mg | [H-].[Na+]
reactant | phenyl N-(1-ethylpropyl)carbamate | 9.03 mmol, 1.87 g | C(C)C(CC)NC(OC1=CC=CC=C1)=O | C12H17NO2
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N1-(1-Ethylpropyl)-5-(2-amino-4-pyridyl)oxy-1H-1-indolecarboxamide | 5.8 mmol, 1.95 g, 71% | C(C)C(CC)NC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)N | C19H22N4O2
